US07687469B2
1-Methoxy-2-(β-D-glucopyranos-1-yl)-4-(4-ethynyl-benzyl)-benzene
0.78 mL of a 1 M solution of tetrabutylammonium fluoride in tetrahydrofuran are added to a solution of 0.55 g 1-methoxy-2-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranos-1-yl)-4-(4-triisopropylsilylethynyl-benzyl)-benzene in 2 mL tetrahydrofuran. The solution is stirred for 30 min at ambient temperature and then diluted with 4 mL methanol. 0.85 mL of 4 M potassium hydroxide solution are added and the resulting solution is stirred for an additional 30 min at ambient temperature. The reaction solution is neutralized with 1 M hydrochloric acid and concentrated in vacuo. The residue is combined with brine and extracted with ethyl acetate. The combined organic extracts are dried over sodium sulfate and the solvent is evaporated. The residue is chromatographed over silica gel (dichloromethane/methanol 9:1->2:1).

reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | 1-methoxy-2-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranos-1-yl)-4-(4-triisopropylsilylethynyl-benzyl)-benzene | 0.55 g | COC1=C(C=C(C=C1)CC1=CC=C(C=C1)C#C[Si](C(C)C)(C(C)C)C(C)C)[C@]1(O)[C@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)COC(C)=O | C39H52O11Si
reactant | potassium hydroxide | 4 M, 0.85 mL | [OH-].[K+]
reactant | hydrochloric acid | 1 M | Cl | ClH
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
solvent | methanol | 4 mL | CO | CH4O
product | 1-Methoxy-2-(β-D-glucopyranos-1-yl)-4-(4-ethynyl-benzyl)-benzene | COC1=C(C=C(C=C1)CC1=CC=C(C=C1)C#C)[C@]1(O)[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO | C22H24O7
